* SRAM sense amplifier
************************************************************************
* auCdl Netlist:
* 
* Library Name:  AAA_Comp_SA
* Top Cell Name: AAA_Comp_SA_sense
* View Name:     schematic
* Netlisted on:  Mar 16 00:39:41 2022
************************************************************************

.SUBCKT sramgen_sp_sense_amp clk inn inp outn outp VDD VSS
*.PININFO clk:I inn:I inp:I midn:O midp:O outn:O outp:O VDD:B VSS:B
XSWOP outp clk VDD VDD sky130_fd_pr__pfet_01v8 m=2 w=1.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XSWON outn clk VDD VDD sky130_fd_pr__pfet_01v8 m=2 w=1.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XSWMP midp clk VDD VDD sky130_fd_pr__pfet_01v8 m=2 w=1.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XSWMN midn clk VDD VDD sky130_fd_pr__pfet_01v8 m=2 w=1.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XPFBP outp outn VDD VDD sky130_fd_pr__pfet_01v8 m=2 w=2.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XPFBN outn outp VDD VDD sky130_fd_pr__pfet_01v8 m=2 w=2.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XTAIL tail clk VSS VSS sky130_fd_pr__nfet_01v8 m=4 w=1.68 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XNFBP outp outn midp VSS sky130_fd_pr__nfet_01v8 m=2 w=1.68 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XNFBN outn outp midn VSS sky130_fd_pr__nfet_01v8 m=2 w=1.68 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XINP midn inp tail VSS sky130_fd_pr__nfet_01v8 m=2 w=1.68 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
XINN midp inn tail VSS sky130_fd_pr__nfet_01v8 m=2 w=1.68 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
.ENDS

